US07244735B2
1-(5-Chloro-2-isopropylamino-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide (I-2):
The 1-(2,5-dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide (60 mg, 0.14 mmol) compound was dissolved in absolute ethanol (1 mL) and isopropyl amine (0.2 mL). The mixture was heated in a sealed Teflon reaction vial at 70° C. overnight. The resulting mixture was filtered and purified by preparative HPLC (Gilson: Column=CombiHT SB-C189 5 μM 21.2 mm×100 mm, eluent=0.1% TFA MeCN/H2O gradient). Further purification by preparative TLC (1 mm silica; eluent ethyl acetate) afforded the title compound as a colorless oil (19.5 mg) Rt=4.82 minutes; LCMS 453.1 (M+1); 1H NMR δ 7.87 (s, 1H) 7.25 (m, 4H) 5.28 (NH) 4.95 (dd, J=5.9, 3.9 Hz, 1H) 4.81 (NH) 4.01 (m, 1H) 3.89 (dd, J=11.2, 3.9 Hz, 1H) 3.83 (dd, J=11.2, 5.9 Hz, 1H) 3.65 (m, 4H) 3.52 (m 4H) 2.1 (OH) 1.20 (d, J=6.5 Hz, 6H).

reactant | 1-(2,5-dichloro-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide | 0.14 mmol, 60 mg | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CCN(CC1)C1=NC(=NC=C1Cl)Cl | C18H19Cl3N4O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | isopropyl amine | 0.2 mL | C(C)(C)N | C3H9N
product | 1-(5-Chloro-2-isopropylamino-pyrimidin-4-yl)-piperidine-4-carboxylic acid [1-(3-chloro-phenyl)-2-hydroxy-ethyl]-amide | 19.5 mg | ClC=1C=C(C=CC1)C(CO)NC(=O)C1CCN(CC1)C1=NC(=NC=C1Cl)NC(C)C | C21H27Cl2N5O2
